US07635699B2
To a suspension of methyl 2-(6-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetate (766 mg, 1.95 mmol) in CH2Cl2 (20 mL) was added Et3N (592 mg, 5.85 mmol) and trifluoroacetic anhydride (819 mg, 3.90 mmol). The reaction mixture became a dark brown-green solution within 2 min. Satd aq NH4Cl (20 mL) was added after 30 min. The organic layer was washed with 20 mL each of satd aq NaHCO3 and water, followed by drying with MgSO4, filtration, and concentration under reduced pressure. The residue was purified by silica gel chromatography eluting product through a 40 mm i.d. by 150 mm column with 1.5% MeOH in CH2Cl2. Concentration of the fractions containing product gave methyl 2-(6-cyano-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetate (583 mg, 80%) as a yellow foam.

reactant | methyl 2-(6-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetate | 1.95 mmol, 766 mg | C(N)(=O)C=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)CC(=O)OC)C | C17H14Cl2N4O3
reactant | Et3N | 5.85 mmol, 592 mg | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 3.90 mmol, 819 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(6-cyano-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidin-2-yl)acetate | 583 mg, 80% | C(#N)C=1C(=NC=2N(C1C1=C(C=C(C=C1)Cl)Cl)C=C(N2)CC(=O)OC)C | C17H12Cl2N4O2
